US08633313B2
1-(3-Phenyl-1,5-naphthyridin-2-yl)ethanamine (46 mg, 0.19 mmol), 4-amino-6-chloropyrimidine-5-carbonitrile (28.5 mg, 1.0 eq) and Hunig's base (39 μL, 1.2 eq) in n-BuOH (2 mL) was heated to 130° C. for 4 h. The mixture was cooled to rt, filtered and washed with small amount of EtOH to give a white solid as 4-amino-6-(1-(3-phenyl-1,5-naphthyridin-2-yl)ethylamino)pyrimidine-5-carbonitrile. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.04 (1H, dd, J=8.0, 4.0 Hz), 8.44 (1H, dd, J=8.0, 4.0 Hz), 8.21 (1H, s), 7.97 (1H, s), 7.84 (1H, dd, J=8.0, 4.0 Hz), 7.61-7.47 (6H, m), 7.30 (1H, br, s), 5.63 (1H, t, J=8.0 Hz)), 1.31 (3H, d, J=8.0 Hz); LC-MS (ESI) m/z 368 [M+H]+.

reactant | 1-(3-Phenyl-1,5-naphthyridin-2-yl)ethanamine | 0.19 mmol, 46 mg | C1(=CC=CC=C1)C=1C(=NC2=CC=CN=C2C1)C(C)N | C16H15N3
reactant | 4-amino-6-chloropyrimidine-5-carbonitrile | 28.5 mg, 1.0 eq | NC1=NC=NC(=C1C#N)Cl | C5H3ClN4
reactant | Hunig's base | 39 μL, 1.2 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | n-BuOH | 2 mL | CCCCO | C4H10O
product | 4-amino-6-(1-(3-phenyl-1,5-naphthyridin-2-yl)ethylamino)pyrimidine-5-carbonitrile | NC1=NC=NC(=C1C#N)NC(C)C1=NC2=CC=CN=C2C=C1C1=CC=CC=C1 | C21H17N7
